US07781436B2
4-(2-Trifluoromethoxy-phenyl)-pyridine
To a solution of (commercially available) (1-bromo-2-trifluoromethoxy-benzene) in DME (first degased with argon) under argon was added 3 mol % Pd(PPh3)4, pyridyl-4-boronic acid and 2N Na2CO3, the resulting reaction mixture was vigorously stirred under reflux. After 5 h at reflux, reaction as monitored by TLC showed completion. Two phases were separated, evaporation of most of the DME, redissolution of the residue in EtOAc and washing with aq. NaOH followed by evaporation gave a yellow oil. Flash Chromatography on SiO2 gel with a mixture of CH2Cl2/MeOH gave the title compound in 51% yield.

reactant | 1-bromo-2-trifluoromethoxy-benzene | BrC1=C(C=CC=C1)OC(F)(F)F | C7H4BrF3O
reactant | pyridyl-4-boronic acid | B(C1=CC=NC=C1)(O)O | C5H6BNO2
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-Trifluoromethoxy-phenyl)-pyridine | 51% yield | FC(OC1=C(C=CC=C1)C1=CC=NC=C1)(F)F | C12H8F3NO
